US04483867
(a) 1-(trans-4-cyanocyclohexanoyloxy)ethyl chloride
trans-4-cyanocyclohexanecarboxylic acid (7.7 g; 0.05 mol) and thionyl chloride (8.0 g; 0.066 mol) was mixed and refluxed for 30 min. Excess thionyl chloride was evaporated in vacuum. Paraldehyde (2.5 g; 0.062 mol) and a catalytic amount of zinc chloride were added and the mixture was heated at 90° C. for 11/2 h with stirring. The cooled mixture was extracted with ether, washed with sodium bicarbonate solution, dried and evaporated, the product was distilled at 112° C./1 Pa. Yield 6.5 g of an oil.

reactant | trans-4-cyanocyclohexanecarboxylic acid | 0.05 mol, 7.7 g | C(#N)[C@@H]1CC[C@H](CC1)C(=O)O | C8H11NO2
reactant | thionyl chloride | 0.066 mol, 8.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | Paraldehyde | 0.062 mol, 2.5 g | CC1OC(OC(O1)C)C | C6H12O3
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 1-(trans-4-cyanocyclohexanoyloxy)ethyl chloride | C(#N)[C@@H]1CC[C@H](CC1)C(=O)OC(C)Cl | C10H14ClNO2
